US08604069B2
(A-82-3) Ethyl 3-isobutyl-2-piperidin-1-ylcyclobutanecarboxylate
1-(4-Methyl-1-pentenyl)piperidine (844 g) and acetonitrile (70 mL) were mixed. The ethyl acrylate (443 mL) and hydroquinone (447 mg) were added to the mixture. The resulting mixture was stirred at 95° C. overnight. The reaction mixture was concentrated in vacuo to give the title compound (994.08 g) as a crude product.

reactant | 1-(4-Methyl-1-pentenyl)piperidine | 844 g | CC(CC=CN1CCCCC1)C | C11H21N
reactant | ethyl acrylate | 443 mL | C(C=C)(=O)OCC | C5H8O2
reactant | hydroquinone | 447 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | Ethyl 3-isobutyl-2-piperidin-1-ylcyclobutanecarboxylate | 994.08 g | C(C(C)C)C1C(C(C1)C(=O)OCC)N1CCCCC1 | C16H29NO2
